US07479502B2
Proceeding as in Reference 21, but substituting 3′-amino-5-formyl-6-methoxy-biphenyl-3-sulfonamide and 3-phenylpropionyl chloride, gave N-(3-phenylpropionyl)-3′-amino-5-formyl-6-methoxy-biphenyl-3-sulfonamide.

reactant | 3′-amino-5-formyl-6-methoxy-biphenyl-3-sulfonamide | NC=1C=C(C=CC1)C1=CC(=CC(=C1OC)C=O)S(=O)(=O)N | C14H14N2O4S
reactant | 3-phenylpropionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | N-(3-phenylpropionyl)-3′-amino-5-formyl-6-methoxy-biphenyl-3-sulfonamide | C1(=CC=CC=C1)CCC(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)OC)C1=CC(=CC=C1)N | C23H22N2O5S
